US05389651
2-{2-methyl-2-[4-(1-methylpropoxy)phenoxy]ethoxy}-1,3-thiazole;
In the same way, 2-chloro-2-thiazoline is reacted with the sodium salt of each of 2-[4-(1-methylpropoxy)phenoxy]ethanol and 1-methyl-2-[4-(1-methylpropoxy)phenoxy]ethanol to give, respectively,

reactant | 2-chloro-2-thiazoline | ClC=1SCCN1 | C3H4ClNS
reactant | sodium | [Na] | Na
reactant | 2-[4-(1-methylpropoxy)phenoxy]ethanol | CC(CC)OC1=CC=C(OCCO)C=C1 | C12H18O3
reactant | 1-methyl-2-[4-(1-methylpropoxy)phenoxy]ethanol | CC(COC1=CC=C(C=C1)OC(CC)C)O | C13H20O3
product | 2-{2-methyl-2-[4-(1-methylpropoxy)phenoxy]ethoxy}-1,3-thiazole | CC(COC=1SC=CN1)OC1=CC=C(C=C1)OC(CC)C | C16H21NO3S
